US09447114B2
To a solution of 6-bromo-5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (50 mg, 0.091 mmol), (3-chlorophenyl)boronic acid (28.7 mg, 0.183 mmol) and aq. 2 M K3PO4 (0.4 mL) in dioxane (2 mL) was added Pd(PPh3)4 (10 mg). The reaction was heated at 85° C. for 2 h, cooled to RT, filtered and the filtrate was diluted DCM (10 mL) and water (10 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by chromatography eluted with PE/EA (10:1 to 3:1) to give 6-(3-chlorophenyl)-5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetra hydro-2H-pyran-2-yl)oxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (40 mg, 75.6% yield) as a solid. LCMS: [M+-THP-OH] 473 and TR=2.215 min.

reactant | 6-bromo-5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.091 mmol, 50 mg | BrC1=C(C2=C(N(C(N(C2=O)CCCOC2OCCCC2)=O)C)S1)C(O)C1=CC=C(C=C1)Cl | C22H24BrClN2O5S
reactant | (3-chlorophenyl)boronic acid | 0.183 mmol, 28.7 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | K3PO4 | 2 M, 0.4 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-chlorophenyl)-5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetra hydro-2H-pyran-2-yl)oxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 40 mg, 75.6% yield | ClC=1C=C(C=CC1)C1=C(C2=C(N(C(N(C2=O)CCCOC2OCCCC2)=O)C)S1)C(O)C1=CC=C(C=C1)Cl | C28H28Cl2N2O5S
